US07855218B2
Description 41: 4-Bromo-3-fluorophenyl (2-fluorophenyl)methyl ether (D41)
A solution of 4-bromo-3-fluorophenol (5 g, 25 mmol), 2-fluorobenzylbromide (4.94 g, 26 mmol) and potassium carbonate (5.39 g, 39 mmol) was stirred at room temperature for 6 h. The solvent was evaporated, the residue taken up in water and extracted with ethyl acetate. The combined organic layers were dried over Na2SO4, filtered and evaporated under reduced pressure, affording the title compound (8.11 g) as a white solid; Rt (HPLC) 6.31 min.

reactant | 4-bromo-3-fluorophenol | 25 mmol, 5 g | BrC1=C(C=C(C=C1)O)F | C6H4BrFO
reactant | 2-fluorobenzylbromide | 26 mmol, 4.94 g | FC1=C(CBr)C=CC=C1 | C7H6BrF
reactant | potassium carbonate | 39 mmol, 5.39 g | C([O-])([O-])=O.[K+].[K+]
product | 4-Bromo-3-fluorophenyl (2-fluorophenyl)methyl ether | 8.11 g | FC1=C(C=CC=C1)COC1=CC(=C(C=C1)Br)F | C13H9BrF2O
